US08735387B2
3 ml of thiophosgene were added slowly to a suspension of 9.65 g of 5-amino-2-(4-chloro-benzyl)-pyrimidine-4,6-diol and 5.3 g of potassium carbonate in 75 ml of N-methyl-pyrrolidin-2-one (NMP) while maintaining the temperature below 10° C. The reaction mixture was stirred for 2 h at 0-10° C. Then 300 ml of water were added and the resulting solution was extracted three times with 200 ml of dichloromethane and three times with 200 ml of a mixture of dichloromethane and isopropanol (3:1). The combined organic phases were dried over sodium sulfate and filtered. The solvents were removed in vacuo to yield approximately 7 g of 5-(4-chloro-benzyl)-2-mercapto-oxazolo[5,4-d]pyrimidin-7-ol as a solution in NMP. 45 ml of NMP and a solution of 2.38 g of sodium hydroxide in 64 ml of water were added at 0° C., and the mixture was stirred for 30 min at 0° C. while the color changed to brown. Then a solution of 1.5 ml of iodomethane in 1.5 ml of NMP was added dropwise. After stirring at 0° C. for 90 min the reaction was complete. The solution was extracted twice with 80 ml of ethyl acetate, and the combined organic phases were dried over sodium sulfate and filtered. The solvents were removed in vacuo to yield 2.2 g of the title compound as a brown solid.

reactant | thiophosgene | 3 ml | C(=S)(Cl)Cl | CCl2S
reactant | 5-amino-2-(4-chloro-benzyl)-pyrimidine-4,6-diol | 9.65 g | NC=1C(=NC(=NC1O)CC1=CC=C(C=C1)Cl)O | C11H10ClN3O2
reactant | potassium carbonate | 5.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 300 ml | O | H2O
solvent | N-methyl-pyrrolidin-2-one | 75 ml | CN1C(CCC1)=O | C5H9NO
product | 5-(4-chloro-benzyl)-2-mercapto-oxazolo[5,4-d]pyrimidin-7-ol | approximately 7 g | ClC1=CC=C(CC=2N=C(C3=C(N2)OC(=N3)S)O)C=C1 | C12H8ClN3O2S
